US07741321B2
To a suspension of Cs2CO3 (270 g, 1.49 mol) in DMF (1000 mL) were added 3,4-dihydroxybenzoic acid ethyl ester (54.6 g, 0.3 mol) and 1,2-dibromoethane (54.3 g, 0.29 mol) at room temperature. The resulting mixture was stirred at 80° C. overnight and then poured into ice-water. The mixture was extracted with EtOAc (200 mL×3). The combined organic layers were washed with water (200 mL×3) and brine (100 mL), dried over Na2SO4 and concentrated to dryness. The residue was purified by column (Petroleum Ether/Ethyl Acetate 50:1) on silica gel to obtain 2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid ethyl ester (18 g, 29%). 1H NMR (300 MHz, CDCl3) δ 7.53 (dd, J=1.8, 7.2 Hz, 2H), 6.84-6.87 (m, 1H), 4.22-4.34 (m, 6H), 1.35 (t, J=7.2 Hz, 3H).

reactant | Cs2CO3 | 1.49 mol, 270 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3,4-dihydroxybenzoic acid ethyl ester | 0.3 mol, 54.6 g | C(C)OC(C1=CC(=C(C=C1)O)O)=O | C9H10O4
reactant | 1,2-dibromoethane | 0.29 mol, 54.3 g | BrCCBr | C2H4Br2
solvent | DMF | 1000 mL | CN(C)C=O | C3H7NO
product | 2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid ethyl ester | 18 g, 29% | C(C)OC(=O)C1=CC2=C(OCCO2)C=C1 | C11H12O4
